US05013863
To a suspension of 15.8 g of sodium hydride (dispersion in oil) in 500 ml of tetrahydrofuran are added dropwise 67 g (300 mMol) of ethyl 1,1-diethoxyethylphosphinate at such a rate so that the temperature, exceed 25° C. This mixture is stirred for one hour at room temperature, then cooled to -10° C. and 77.8 g (900 mMol) of chlorodifluoromethane are introduced. Stirring is continued for another 2 hours at room temperature, then 100 ml of ice-cold water are added. The mixture is extracted three times with dichloromethane and the combined extracts dried over magnesium sulphate. Removal of the solvent in vacuo gives ethyl 1,1-diethoxyethyl(difluoromethyl)phosphinate as a viscous oil, Rf=0.44 (CH2Cl2 /CH3COOH, 9+1).

reactant | sodium hydride | 15.8 g | [H-].[Na+]
reactant | ethyl 1,1-diethoxyethylphosphinate | 300 mMol, 67 g | C(C)OC(C)(OCC)P(OCC)=O | C8H19O4P
reactant | chlorodifluoromethane | 900 mMol, 77.8 g | ClC(F)F | CHClF2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | ethyl 1,1-diethoxyethyl(difluoromethyl)phosphinate | C(C)OC(C)(OCC)P(OCC)(=O)C(F)F | C9H19F2O4P
